US04061647
3-Butyl-2-butylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 10 from 3.5 g of 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone and 1.9 g of 1.3-dibutyl-thiourea. M.p. 194° C (decomposition).

reactant | 2-bromo-2',4'-dichloro-5'-sulfamoylacetophenone | 3.5 g | BrCC(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl | C8H6BrCl2NO3S
reactant | 1.3-dibutyl-thiourea | 1.9 g | C(CCC)NC(=S)NCCCC | C9H20N2S
product | 3-Butyl-2-butylimino-4-(2,4-dichloro-5-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrobromide | Br.C(CCC)N1C(SCC1(O)C1=C(C=C(C(=C1)S(N)(=O)=O)Cl)Cl)=NCCCC | InChI=1S/C17H25Cl2N3O3S2.BrH/c1-3-5-7-21-16-22(8-6-4-2)17(23,11-26-16)12-9-15(27(20,24)25)14(19)10-13(12)18;/h9-10,23H,3-8,11H2,1-2H3,(H2,20,24,25);1H
